US08202863B2
A solution of 2-pyridin-4-yl-pyrimidine-5-carboxylic acid methyl ester (1.11 g, 5.18 mmol), and aqueous LiOH (1 M, 5.18 mL) in MeOH (7.25 mL) is stirred at room temperature overnight. MeOH is removed in vacuo, and the aqueous solution is treated with 3 N HCl to adjust the pH to between 2 and 3. The solid is filtered off and washed with water and dried in vacuum to yield 2-pyridin-4-yl-pyrimidine-5-carboxylic acid (1 g, 96%) as a solid. MS: 202 (M+H).

reactant | 2-pyridin-4-yl-pyrimidine-5-carboxylic acid methyl ester | 5.18 mmol, 1.11 g | COC(=O)C=1C=NC(=NC1)C1=CC=NC=C1 | C11H9N3O2
reactant | LiOH | 1 M, 5.18 mL | [Li+].[OH-]
solvent | MeOH | 7.25 mL | CO | CH4O
product | 2-pyridin-4-yl-pyrimidine-5-carboxylic acid | 1 g, 96% | N1=CC=C(C=C1)C1=NC=C(C=N1)C(=O)O | C10H7N3O2
